US08809267B2
2-Amino-3,3-dimethyl-butyric acid (551 mg, 4.2 mmol) was dissolved in CH3CN (15 mL), H2O (3 mL) and MeOH (3 mL). Carbonic acid 4-nitro-phenyl ester tetrahydro-furan-3-yl ester (1.6 g, 6.3 mmol) and DIEA (1.46 mL, 8.4 mmol) were added. This reaction mixture was allowed to stir at room temperature for 16 h. After concentrated, diluted with EtOAc, washed with brine and H2O, dried over Na2SO4, the crude product was purified on silica (12 g, 25-75% EtOAc/hexanes) to give intermediate 3,3-dimethyl-2-(tetrahydro-furan-3-yloxycarbonylamino)-butyric acid as a white solid (670 mg, 65%).

reactant | 2-Amino-3,3-dimethyl-butyric acid | 4.2 mmol, 551 mg | NC(C(=O)O)C(C)(C)C | C6H13NO2
reactant | H2O | 3 mL | O | H2O
reactant | Carbonic acid 4-nitro-phenyl ester tetrahydro-furan-3-yl ester | 6.3 mmol, 1.6 g | O1CC(CC1)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO6
reactant | DIEA | 8.4 mmol, 1.46 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 15 mL | CC#N | C2H3N
solvent | MeOH | 3 mL | CO | CH4O
product | 3,3-dimethyl-2-(tetrahydro-furan-3-yloxycarbonylamino)-butyric acid | 670 mg, 65% | CC(C(C(=O)O)NC(=O)OC1COCC1)(C)C | C11H19NO5
